US07001897B2
To a solution of p-nitrobenzyl(1R,5S,6S)-2-(diphenylphosphoryloxy)-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (5.00 g, 8.41 mmol) in dimethylformamide (250 ml) were added t-butyldimethylsilyl chloride (2.54 g, 16.8 mmol) and imidazole (1.14 g, 16.8 mmol) in an ice bath, and the reaction mixture was stirred in the ice bath for 7 hours. After checking the completion of the reaction, methanol was added thereto and the resulting mixture was stirred for 30 minutes. The reaction mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The obtained organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (3:1) as the eluant to afford p-nitrobenzyl (1R,5S,6S)-6-[(R)-1-t-butyldimethylsilyloxyethyl]-2-(diphenylphosphoryloxy)-1-methylcarbapen-2-em-3-carboxylate (5.27 g, yield 88%) as a pale yellow oil.

reactant | p-nitrobenzyl(1R,5S,6S)-2-(diphenylphosphoryloxy)-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 8.41 mmol, 5.00 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)OC=1[C@@H]([C@@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O8P
reactant | t-butyldimethylsilyl chloride | 16.8 mmol, 2.54 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 16.8 mmol, 1.14 g | N1C=NC=C1 | C3H4N2
reactant | methanol | CO | CH4O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | p-nitrobenzyl (1R,5S,6S)-6-[(R)-1-t-butyldimethylsilyloxyethyl]-2-(diphenylphosphoryloxy)-1-methylcarbapen-2-em-3-carboxylate | 5.27 g, yield 88% | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@H]2N(C(=C([C@@H]2C)OP(=O)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C35H41N2O8PSi
